US06914069B2
Compound 7d: O-(tert-butyl)tyrosinamide
N-Fmoc-O-tert-butyl-tyrosine (3.27 g, 7.12 mmol) was dissolved in dioxane (15 mL). Ammonium hydrogenocarbonate (732 mg, 9.26 mmol), di-tert-butyl-dicarbonate (2.02 g, 9.26 mmol) and pyridine (0.4 mL) were added and the mixture was stirred under nitrogen atmosphere at room temperature for 12 h. It was then diluted with ethyl acetate and the organic phase was washed with brine (2×), 5% sulfuric acid (1×) and brine again. It was dried over magnesium sulfate and concentrated. The crude thus obtained (3.17 g) was dissolved in dichloromethane (50 mL) and diethylamine (10 mL). The mixture was stirred at room temperature for 12 h, concentrated under reduced pressure and purified by flash chromatography with DCM/MeOH/NH4OH (95/5/1 then 90/10/1) to give 1.37 g of the desired compound (yield=81%).

reactant | N-Fmoc-O-tert-butyl-tyrosine | 7.12 mmol, 3.27 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](CC1=CC=C(C=C1)OC(C)(C)C)C(=O)O | C28H29NO5
reactant | Ammonium | 9.26 mmol, 732 mg | [NH4+]
reactant | di-tert-butyl-dicarbonate | 9.26 mmol, 2.02 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | pyridine | 0.4 mL | N1=CC=CC=C1 | C5H5N
solvent | dioxane | 15 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | diethylamine | 10 mL | C(C)NCC | C4H11N
product | O-(tert-butyl)tyrosinamide | 1.37 g, yield=81% | C(C)(C)(C)OC1=CC=C(C[C@H](N)C(=O)N)C=C1 | C13H20N2O2
